US08119805B2
Stage (iv): (S)-1-(1-Methylpiperidin-4-yl)-4-(3-(pyrrolidin-2-yl)propylsulfonyl)piperazine hydrochloride
Hydrogen chloride in methanol (5 ml, 1.25 mol/l) was added to (S)-tert-butyl 2-(3-(4-(1-methylpiperidin-4-yl)piperazin-1-ylsulfonyl)propyl)pyrrolidine-1-carboxylate (0.27 g, 0.589 mmol) and the mixture was refluxed. After 1 h ethyl acetate (10 ml) and diethyl ether (20 ml) were added to the suspension, the mixture was stirred in an ice bath for 1 h and the precipitate was filtered out with suction, washed with diethyl ether and dried in vacuo. Yield: 0.22 g (79%)

reactant | Hydrogen chloride | Cl | ClH
reactant | (S)-tert-butyl 2-(3-(4-(1-methylpiperidin-4-yl)piperazin-1-ylsulfonyl)propyl)pyrrolidine-1-carboxylate | 0.589 mmol, 0.27 g | CN1CCC(CC1)N1CCN(CC1)S(=O)(=O)CCC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C22H42N4O4S
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | methanol | 1.25 mol/l, 5 ml | CO | CH4O
product | (S)-1-(1-Methylpiperidin-4-yl)-4-(3-(pyrrolidin-2-yl)propylsulfonyl)piperazine hydrochloride | Cl.CN1CCC(CC1)N1CCN(CC1)S(=O)(=O)CCC[C@H]1NCCC1 | InChI=1S/C17H34N4O2S.ClH/c1-19-9-6-17(7-10-19)20-11-13-21(14-12-20)24(22,23)15-3-5-16-4-2-8-18-16;/h16-18H,2-15H2,1H3;1H/t16-;/m0./s1
